US09085555B2
B. (2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (195 g, 0.782 mmol) in CH2Cl2 (10 mL) were added 3-chloro-2-fluoro-benzylamine (150 mg, 0.94 mmol), propylphosphonic anhydride (50% in EtOAc, 0.346 mL, 1.17 mmol) and DIPEA (0.41 mL, 2.35 mmol). The reaction mixture was stirred 1 h at RT, then quenched by addition of a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:1). MS (UPLC): 391.3/393.1 [M+H]+, 435.4/437.4 [M+HCOO]−; tR (HPLC conditions f): 1.95 min.

reactant | (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.782 mmol, 195 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O)C(=O)O | C10H16FNO5
reactant | 3-chloro-2-fluoro-benzylamine | 0.94 mmol, 150 mg | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | propylphosphonic anhydride | 1.17 mmol, 0.346 mL | CCCP(=O)=O | C3H7O2P
reactant | DIPEA | 2.35 mmol, 0.41 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClF2N2O4
